US04107307
6-Benzyl-8-n-propyl-imidazo[1,5-d]-as-triazine-4-(3H)-thione
The procedure of Example 65 is repeated substituting an equimolecular amount of 3-[(2-benzyl-5-n-propylimidazolyl)-methylene]dithiocarbazic acid methyl ester for the 3-[(2-benzyl-5-methylimidazolyl)methylene]dithiocarbazic acid methyl ester employed in that example. There is thus obtained the title compound in equally good yield.

reactant | 3-[(2-benzyl-5-n-propylimidazolyl)-methylene]dithiocarbazic acid methyl ester | CSC(NN=CC=1N=C(NC1CCC)CC1=CC=CC=C1)=S | C16H20N4S2
reactant | 3-[(2-benzyl-5-methylimidazolyl)methylene]dithiocarbazic acid methyl ester | CSC(NN=CC=1N=C(NC1C)CC1=CC=CC=C1)=S | C14H16N4S2
product | 6-Benzyl-8-n-propyl-imidazo[1,5-d]-as-triazine-4-(3H)-thione | C(C1=CC=CC=C1)C1=NC(=C2N1C(NN=C2)=S)CCC | C15H16N4S
